US07892702B2
In a 100-ml round-bottomed flask equipped with a magnetic stirrer, were added 1.0 g (3.26 mmol) of 5-bromonaphthacene, 23 mg (0.0326 mmol) of dichlorobis(triphenylphosphine)palladium(II) catalyst and 12 ml of toluene. A solution containing 0.69 g (6.51 mmol) of sodium bicarbonate in 4 ml of water was added to the flask. The mixture was degassed via nitrogen purge for 10 minutes. A solution of 0.417 g (3.42 mmol) of phenylboronic acid in 12 ml of ethanol was then added to the flask, and the reaction mixture was heated to 75° C. and stirred overnight for 15 hours. The resulting reaction mixture contained yellow and white solids that were dissolved by the addition of toluene and water. The mixture was transferred to a 100-ml separatory funnel and the aqueous layer was extracted three times with 15 ml of toluene. After the toluene layer was back-extracted once with distilled water, it was stirred over sodium sulfate for one hour and filtered. Charcoal (2 g) was added to the toluene layer and stirred for a minimum of 2 hours. The charcoal was filtered off and the solvent was removed by rotary evaporation. The product was dried at room temperature under vacuum (product sublimed at higher temperatures). 5-Phenylnaphthacene was obtained in 93% yield (0.92 g) and used without further purification.

reactant | 5-bromonaphthacene | 3.26 mmol, 1.0 g | BrC1=C2C=CC=CC2=CC2=CC3=CC=CC=C3C=C12 | C18H11Br
reactant | toluene | 12 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium bicarbonate | 6.51 mmol, 0.69 g | C([O-])(O)=O.[Na+]
reactant | phenylboronic acid | 3.42 mmol, 0.417 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.0326 mmol, 23 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 4 ml | O | H2O
solvent | ethanol | 12 ml | C(C)O | C2H6O
product | 5-Phenylnaphthacene | 93% yield | C1(=CC=CC=C1)C1=C2C=CC=CC2=CC2=CC3=CC=CC=C3C=C12 | C24H16
